US07994190B2
To a stirred solution of (6-chloropyridin-3-yl)(phenyl)methanol (1.5 g, 6.8 mmol), diisopropylethylamine (2.5 mL, 15 mmol), 4-dimethylaminopyridine (86 mg, 0.7 mmol) in anhydrous dichloromethane (4 mL) was added acetic anhydride (1.4 mL, 15 mmol) dropwise at 0° C. under argon. After the reaction mixture was stirred at room temperature for 2 hours, water (1 mL) and then saturated aqueous sodium bicarbonate solution (20 mL) were added slowly to quench the reaction. The mixture was stirred at room temperature for 30 minutes and then extracted with dichloromethane (3×10 mL). The combined dichlormethane extracts were dried (Na2SO4) and concentrated. Silica gel flash chromatography (0-100% ethyl acetate in hexanes) gave (6-chloropyridin-3-yl)(phenyl)methyl acetate (1.7 g, 6.5 mmol, 96% yield) as a colorless liquid. MS found: (M+H)+=262.13.

reactant | (6-chloropyridin-3-yl)(phenyl)methanol | 6.8 mmol, 1.5 g | ClC1=CC=C(C=N1)C(O)C1=CC=CC=C1 | C12H10ClNO
reactant | diisopropylethylamine | 15 mmol, 2.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 15 mmol, 1.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 86 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
product | (6-chloropyridin-3-yl)(phenyl)methyl acetate | 6.5 mmol, 1.7 g, 96% yield | C(C)(=O)OC(C1=CC=CC=C1)C=1C=NC(=CC1)Cl | C14H12ClNO2
